* C:\Users\hhint\Desktop\HH_3-2\Research League\Research_League_Project_PCB_Design\LT_Simulation_1st_Attempt.asc
V1 N002 N009 SINE(0 380 50)
R1 N003 N002 1.2Meg
R2 N004 N003 1.2Meg
R3 N010 N009 1.2Meg
R4 N011 N010 1.2Meg
R5 N008 N011 2.2k
R6 N005 N004 2.2k
C1 N011 0 10µF
C2 N004 0 10µF
R7 N001 N005 22k
C3 N001 0 10µF
V2 N001 0 5V
XU1 N005 N008 N012 0 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 N012 0 12V
R8 N006 N008 10k
R9 N007 N006 10k
R10 0 N007 10k
.tran 0 1.1 1
.lib UniversalOpamps2.sub
.backanno
.end
